US07932288B2
Production of a Tablet Containing Ornithine
A mixture of 136.2 Kg of ornithine hydrochloride (Commercial name: L-ornithine hydrochloride, Kyowa Hakko Co., Ltd.), 36.0 Kg of a fine cellulose crystal (Commercial name: Avcel FD101, Asahi Kaei Chemicals Co., Ltd.); 6.6 kg of sucrose fatty acid ester (Commercial name: DK ester F-20W, Daiichi Kogyo Seiyaku Co., Ltd.); 1.2 kg of calcium phosphate (Commercial name: Tricalcium phosphate, Taihei Chemical Industrial Co., Ltd.); and 20.0 kg of β-cyclodextrin (Commercial name: Seldex B-100, Nihon Shokuhinkako Co., Ltd.) was mixed using a conical blender (CB-1220 Blender, Nihon Kansoki C., Ltd.). The mixture obtained was compressed and molded to a tablet of 250 mg with 8 mm of diameter under 10 KN of compression-molding pressure using the rotary compression molding machine (VIRGO0524SS1AY, Kikusui Seisakusho Co., Ltd.).

reactant | ornithine hydrochloride | 136.2 Kg | Cl.N[C@@H](CCCN)C(=O)O
reactant | calcium phosphate | 1.2 kg | P(=O)([O-])([O-])[O-].[Ca+2].P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2]
reactant | β-cyclodextrin | 20.0 kg | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
product | Ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
